US04340740
Methanol (3 ml) and 2 ml of DME were added to 802 mg of alpha-(2-benzothiazolylthio)(m-benzoylphenyl)-acetonitrile, and the mixture was stirred in an argon atmosphere under ice cooling. Then, 0.78 ml of a 2.7 M methanol solution of sodium methoxide was added, and then 0.19 ml of methyl iodide was added dropwise. The reaction mixture was stirred at room temperature for 1 hour, and after adding an aqueous solution of ammonium chloride (1 g/20 ml), extracted with 40 ml of methylene chloride three times. The extract was washed with 50 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was separated by column chromatography (silica gel; benzene and methylene chloride) to afford 580 mg (yield 70%) of alpha-(2-benzothiazolylthio)-alpha-(m-benzoylphenyl)propionitrile as an oil.

reactant | alpha-(2-benzothiazolylthio)(m-benzoylphenyl)-acetonitrile | 802 mg | S1C(=NC2=C1C=CC=C2)SC(C#N)C2=CC(=CC=C2)C(C2=CC=CC=C2)=O | C22H14N2OS2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl iodide | 0.19 ml | CI | CH3I
reactant | ammonium chloride | 20 ml, 1 g | [Cl-].[NH4+]
solvent | methanol | 2.7 M | CO | CH4O
solvent | DME | 2 ml | COCCOC | C4H10O2
solvent | Methanol | 3 ml | CO | CH4O
product | alpha-(2-benzothiazolylthio)-alpha-(m-benzoylphenyl)propionitrile | 580 mg, yield 70% | S1C(=NC2=C1C=CC=C2)SC(C#N)(C)C2=CC(=CC=C2)C(C2=CC=CC=C2)=O | C23H16N2OS2
